US05559224
A 3.10 g portion of 4-aminobutyric acid was dissolved in 15 ml of 2N sodium hydroxide, to the solution were simultaneously added dropwise 6.48 g of p-nitrobenzyloxycarbonyl chloride dissolved in ether and 7.5 ml of 4N sodium hydroxide while cooling on an ice-bath. After 2 hours of stirring at the same temperature, the solution was washed with ether, the resulting aqueous layer was adjusted to acidic with concentrated hydrochloric acid, and a precipitated. solid material was collected by filtration, washed with water and then dried to yield 7.64 g of 4-(p-nitrobenzyloxycarbonyl)aminobutyric acid.

reactant | 4-aminobutyric acid | NCCCC(=O)O | C4H9NO2
reactant | p-nitrobenzyloxycarbonyl chloride | 6.48 g | [N+](=O)([O-])C1=CC=C(COC(=O)Cl)C=C1 | C8H6ClNO4
solvent | sodium hydroxide | 2N, 15 ml | [OH-].[Na+]
solvent | ether | CCOCC | C4H10O
solvent | sodium hydroxide | 4N, 7.5 ml | [OH-].[Na+]
product | 4-(p-nitrobenzyloxycarbonyl)aminobutyric acid | 7.64 g | [N+](=O)([O-])C1=CC=C(COC(=O)NCCCC(=O)O)C=C1 | C12H14N2O6
